US07230031B2
5-Methyl-7-nitroindan-4-thiol
A suspension of S-(5-methyl-7-nitroindan-4-yl) dimethylthiocarbamate (5.0 g) in a 2 mol/L aqueous solution of sodium hydroxide (30 mL) and methanol (30 mL) was stirred at 90° C. under an argon atmosphere for 6 hours. The reaction mixture was cooled to room temperature. The reaction mixture was acidified by 1 mol/L hydrochloric acid, and extracted with ethyl acetate. The organic layer was washed with brine and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=5/1−3/1) to give the title compound (1.87 g).

reactant | S-(5-methyl-7-nitroindan-4-yl) dimethylthiocarbamate | 5.0 g | CN(C(SC1=C2CCCC2=C(C=C1C)[N+](=O)[O-])=O)C | C13H16N2O3S
reactant | sodium hydroxide | 30 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | methanol | 30 mL | CO | CH4O
product | 5-Methyl-7-nitroindan-4-thiol | 1.87 g | CC1=C(C=2CCCC2C(=C1)[N+](=O)[O-])S | C10H11NO2S
